US05082838
7-(p-Methylbenzyl)-9-phenyl-4H,6H-pyrimido-[6,1-b][1,3]thiazine-6,8(7H)-dione
A mixture of 9-phenyl-4H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione (0.26 g), p-methylbenzylchloride (0.21 g) and potassium carbonate (0.28 g) in DMF (5 ml) was stirred at 100° C. for 15 hours. The reaction solution was concentrated to dryness. The resulting residue was dissolved in dichloroethane and was washed with water and dried. m-Chloroperbenzoic acid (0.2 g) was added to the dichloroethane solution little by little under ice cooling, and it was allowed to stand at room temperature for 15 hours. The reaction solution was washed with saturated aq. sodium bicarbonate, and dried, and then trifluoro acetic acid anhydride (0.5 ml) was added thereto and the mixture was refluxed for 15 hours. Oily product obtained by concentration of the resulting solution was dissolved in toluene (20 ml), and a catalytic amount of p-toluene sulfonic acid was added thereto and the mixture was refluxed for 10 hours. The reaction solution was washed with sodium bicarbonate and water, followed by concentration to dryness. The obtained crude crystals were recrystallized from ethyl ether to give colorless crystals (0.12 g, 33%).

reactant | 9-phenyl-4H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.26 g | C1(=CC=CC=C1)C=1C(NC(N2C1SC=CC2)=O)=O | C13H10N2O2S
reactant | p-methylbenzylchloride | 0.21 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(p-Methylbenzyl)-9-phenyl-4H,6H-pyrimido-[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.12 g, 33% | CC1=CC=C(CN2C(N3C(SC=CC3)=C(C2=O)C2=CC=CC=C2)=O)C=C1 | C21H18N2O2S
